US09034866B2
10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.14 g) was reacted with 1-Boc-4-pyrazoleboronic acid pinacol ester similar to as described in Example 4 and triturated from water followed by methanol to give 100 mg of 10-bromo-9-fluoro-3-(1H-pyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol via similar to as described in Procedure E to afford 47.5 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-3-(1H-pyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 396 (M)+. 1H NMR (400 MHz, DMSO) δ 13.10 (s, 1H), 8.62 (s, 1H), 8.10 (s, 1H), 7.81 (s, 1H), 7.57 (s, 1H), 7.01 (s, 1H), 6.99 (s, 1H), 5.50 (s, 1H), 4.54-4.41 (m, 2H), 4.38-4.20 (m, 2H), 2.07 (s, 1H), 1.51 (s, 6H).

reactant | 10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.14 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
reactant | 1-Boc-4-pyrazoleboronic acid pinacol ester | C(=O)(OC(C)(C)C)N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C14H23BN2O4
product | 10-bromo-9-fluoro-3-(1H-pyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 100 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C=3C=NNC3)C1)F | C15H11BrFN5O2
